US07943669B2
Step A: 3-Bromo-5-isobutoxy-phenylboronic Acid
1,3-Dibromo-5-isobutoxy-benzene (1. g; 3.3 mmol) was dissolved in dry THF (30 ml) in a dry reaction under stirring. The reaction mixture was cooled to −70° C. and n-BuLi (2M; 2.44 ml) was added. The reaction mixture was stirred for 15 min. and triisobutylborate (1.50 ml; 6.5 mmol) was added at −70° C. The temperature was raised to −30° C. and stirred for 1½ hour followed by a temperature increase to room temperature. The reaction mixture was quenched with saturated aqueous sodium hydrogen carbonate (about 3 ml) and evaporated to dryness. The crude product was purified by prep HPLC (method B). Yield: 430 mg; 49%. HPLC-MS: m/z: 272.9 (M+); Rt: 2.08 min

reactant | 1,3-Dibromo-5-isobutoxy-benzene | 3.3 mmol | BrC1=CC(=CC(=C1)OCC(C)C)Br | C10H12Br2O
reactant | n-BuLi | 2M, 2.44 ml | [Li]CCCC
reactant | triisobutylborate | 6.5 mmol, 1.50 ml | C(C(C)C)OB(OCC(C)C)OCC(C)C | C12H27BO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-Bromo-5-isobutoxy-phenylboronic Acid | BrC=1C=C(C=C(C1)OCC(C)C)B(O)O | C10H14BBrO3
